US04454320
5-(5-Methyl-2-furyl)oxazolidine-2,4-dione
5-Hydroxy-5-(5-methyl-2-furyl)-2,4,6(1H,3H,5H)-pyrimidinetrione (6.3 g.) was dissolved in 50 ml. of 1 N sodium hydroxide and stirred at room temperature for 15 minutes. The reaction mixture was extracted with 50 ml. of ethyl acetate, and acidified with glacial acetic acid. Product was then extracted into fresh ethyl acetate (three 30 ml. portions). The combined ethyl acetate extracts were filtered through a bed of anhydrous magnesium sulfate and evaporated to an oil. The oil was chromatographed on 50 ml. of silica gel, with 1:1 hexane:ethyl acetate/5% acetic acid as eluant. The column was monitored by tlc using the same eluant. Clean product containing fractions were combined, evaporated to dryness and triturated with hexane (311 mg., m.p. 135°-138° C.). Recrystallization from methanol/water afforded purified 5-(5-methyl-2-furyl)oxazolidine-2,4-dione (142 mg., m.p. 136.5°-137.5° C.).

reactant | 5-Hydroxy-5-(5-methyl-2-furyl)-2,4,6(1H,3H,5H)-pyrimidinetrione | 6.3 g | OC1(C(NC(NC1=O)=O)=O)C=1OC(=CC1)C | C9H8N2O5
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 5-(5-Methyl-2-furyl)oxazolidine-2,4-dione | CC1=CC=C(O1)C1C(NC(O1)=O)=O | C8H7NO4
